### PR TITLE
[Merged by Bors] - feat: `1 ≤ s.card ↔ s.Nonempty`

### PR DESCRIPTION
**Pull request by YaelDillies**
This shows up when normalising complicated expressions.

From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/GroupTheory/Perm/Cycle/Factors.lean [hunk 1]
```diff
@@ -182,11 +182,10 @@ theorem two_le_card_support_cycleOf_iff : 2 ≤ card (cycleOf f x).support ↔ f
...
 #align equiv.perm.two_le_card_support_cycle_of_iff Equiv.Perm.two_le_card_support_cycleOf_iff
 
-@[simp]
-theorem card_support_cycleOf_pos_iff : 0 < card (cycleOf f x).support ↔ f x ≠ x := by
-  rw [← two_le_card_support_cycleOf_iff, ← Nat.succ_le_iff]
+@[simp] lemma support_cycleOf_nonempty : (cycleOf f x).support.Nonempty ↔ f x ≠ x := by
+  rw [← two_le_card_support_cycleOf_iff, ← card_pos, ← Nat.succ_le_iff]
   exact ⟨fun h => Or.resolve_left h.eq_or_lt (card_support_ne_one _).symm, zero_lt_two.trans_le⟩
-#align equiv.perm.card_support_cycle_of_pos_iff Equiv.Perm.card_support_cycleOf_pos_iff
+#align equiv.perm.card_support_cycle_of_pos_iff Equiv.Perm.support_cycleOf_nonempty
```
Comment (urkud) [inline Mathlib/GroupTheory/Perm/Cycle/Factors.lean:188]: Please restore the old lemma as a deprecated non-`simp` lemma. Otherwise LGTM. Thanks!
bors d+

**Comment by YaelDillies** [comment]
bors merge

**Comment by YaelDillies** [comment]
Let's try again

bors merge
